US07153878B2
3-(4-Hydroxymethyl-2-methyl-phenyl)-acrylic acid methyl ester
A mixture of methyl-4-bromo-3-methylbenzoate (5.7 g, 24.88 mmol), lithium aluminum hydride (29 mL, 29 mmol, 1 M solution in tetrahydrofuran) and tetrahydrofuran (100 mL) is stirred in ice/water for 1 hr. The reaction is quenched with aqueous hydrochloric acid (50 mL, 1 M). The product is extracted into ethyl acetate (3×100 mL). The combined extracts are dried over anhydrous magnesium sulfate, filtered and concentrated. The crude product is taken up in propionitrile (100 mL). Methylacrylate (10 mL, 121.5 mmol), palladium acetate (1.12 g, 5 mmol), tri-o-tolylphosphine (3.0 g, 10 mmol), and N,N-diisopropyl ethylamine (8.7 mL, 50 mmol) are sequentially added and the resulting reaction mixture is heated to 110 deg C. 3 hr. The mixture is concentrated, and the residue diluted with aqueous hydrochloric acid (100 mL, 1M). The product is extracted with dichloromethane (2×100 mL) and ethyl acetate (100 mL). The combined extracts are dried over anhydrous magnesium sulfate, filtered, concentrated, and purified via silica chromatography eluting with 7:3 hexanes:ethyl acetate to 1:1 hexanes:ethyl acetate to afford the pure product as a yellow oil, 4.7 g, 91%. MS M++1 207. The structure is confirmed by 1H NMR spectroscopy.

reactant | methyl-4-bromo-3-methylbenzoate | 24.88 mmol, 5.7 g | COC(C1=CC(=C(C=C1)Br)C)=O | C9H9BrO2
reactant | lithium aluminum hydride | 29 mmol, 1 M, 29 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Methylacrylate | 121.5 mmol, 10 mL | COC(C=C)=O | C4H6O2
reactant | tri-o-tolylphosphine | 10 mmol, 3.0 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | N,N-diisopropyl ethylamine | 50 mmol, 8.7 mL | C(C)(C)N(C(C)C)CC | C8H19N
catalyst | palladium acetate | 5 mmol, 1.12 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 3-(4-Hydroxymethyl-2-methyl-phenyl)-acrylic acid methyl ester | COC(C=CC1=C(C=C(C=C1)CO)C)=O | C12H14O3
